US04377515
A. BOC-L-Met-L-Leu-OMe
6.225 g. (25 mole) of BOC-L-Met was dissolved in 160 ml. of degassed dimethylformamide and cooled under nitrogen to 0° C. 4.55 g. (25 mmole) of L-Leu-OMe was dissolved in 80 ml. of dimethylformamide and set aside. To the BOC-L-Met was added 5.38 ml. of diphenylphosphorylazide in 10% excess followed by 3.48 ml. of triethylamine in 10% excess, followed by the L-Leu-OMe. The reaction mixture was stirred at 0° C. for 3 hrs., then at room temperature for 16 hrs. The solution was concentrated and treated with 3:1 dimethylformamide/water and mixed bed resin, whereupon it crystallized out on the resin. The resin and crystals were filtered and the resin washed with dimethylformamide to isolate the product. The filtrate was then concentrated and recrystallized from ethyl acetate/hexane. 7.74 g. of product was obtained.

reactant | BOC-L-Met | 25 mole | N([C@@H](CCSC)C(=O)O)C(=O)OC(C)(C)C | C10H19NO4S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | L-Leu-OMe | 25 mmole | N[C@@H](CC(C)C)C(=O)OC | C7H15NO2
reactant | diphenylphosphorylazide | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | BOC-L-Met-L-Leu-OMe | N([C@@H](CCSC)C(=O)N[C@@H](CC(C)C)C(=O)OC)C(=O)OC(C)(C)C | C17H32N2O5S
